US06121301
In 15 ml of dried tetrahydrofuran, 968 mg of 2-amino-4-ethoxycarbonyl-1,3-thiazolehydrobromide were suspended. To the suspension, 1.19 g of triethylamine were added. A solution of 3-cyanobenzoyl chloride dissolved in 3 ml of dried tetrahydrofuran was added dropwise to the resulting mixture under ice cooling, followed by stirring at room temperature for 3 hours. Water was added to the reaction mixture and the resulting mixture was extracted with chloroform. The organic layer was then dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (chloroform: methanol=10:1), whereby 980 mg of 2-[N-(3-cyanobenzoyl)amino]-4-ethoxycarbonyl-1,3-thiazole were obtained as white crystals. Yield: 83%.

reactant | 2-amino-4-ethoxycarbonyl-1,3-thiazolehydrobromide | 968 mg | Br.NC=1SC=C(N1)C(=O)OCC
reactant | triethylamine | 1.19 g | C(C)N(CC)CC | C6H15N
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-[N-(3-cyanobenzoyl)amino]-4-ethoxycarbonyl-1,3-thiazole | 980 mg, Yield: 83% | C(#N)C=1C=C(C(=O)NC=2SC=C(N2)C(=O)OCC)C=CC1 | C14H11N3O3S
